US03952003
6-Chloro-1-methyl-5-(Nitroso-N-methylamino)indazole-4,7-dione
6-Chloro-5-methylamino-1-methylindazole-4,7-dione (4.5 grams) in 30 % hydrochloric acid (50 milliliters was stirred at 0° C and treated dropwise with a solution of sodium nitrite (3.0 grams) in water (20 milliliters). After 1 hour the orange solid which had separated out was collected, washed with water and dried over silica gel to yield the desired product having a melting point of 124°-125° C (with decomposition).

reactant | 6-Chloro-5-methylamino-1-methylindazole-4,7-dione | 4.5 grams | ClC1=C(C(C=2C=NN(C2C1=O)C)=O)NC | C9H8ClN3O2
reactant | sodium nitrite | 3.0 grams | N(=O)[O-].[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | water | 20 milliliters | O | H2O
product | 6-Chloro-1-methyl-5-(Nitroso-N-methylamino)indazole-4,7-dione | ClC1=C(C(C=2C=NN(C2C1=O)C)=O)N(C)N=O | C9H7ClN4O3
